US05294734
0.98 g (3.5 mmol) of 2-amino-6-methoxy-4-phosphonomethyl-hex-3-enoic acid ethyl ester is heated under reflux in 7 ml of water for 17 hours. The reaction mixture is concentrated by evaporation and crystallised from a mixture of water and ethanol. 2-amino-6-methoxy-4-phosphonomethyl-hex-3-enoic acid having a melting point of 214° C. (decomp.) is obtained.

reactant | 2-amino-6-methoxy-4-phosphonomethyl-hex-3-enoic acid ethyl ester | 3.5 mmol, 0.98 g | C(C)OC(C(C=C(CCOC)CP(=O)(O)O)N)=O | C10H20NO6P
solvent | water | 7 ml | O | H2O
product | 2-amino-6-methoxy-4-phosphonomethyl-hex-3-enoic acid | NC(C(=O)O)C=C(CCOC)CP(=O)(O)O | C8H16NO6P
